US04879295
2-(2-acetoxyphenyl)-4-thiazolecarboxylic acid (Processes A and B)
To a solution of 2-(2-hydroxyphenyl)-4-thiazolecarboxylic acid (900 mg) dissolved in dry pyridine (15 ml) was added dropwise acetic anhydride (0.461 ml) under ice-cooling. The mixture was allowed to warm up to room temperature and to react for additional 1.5 hours. Then the solvent was removed and the residue was treated with water, acidified with 2N--HCl and extracted with ethyl acetate. The extract was washed with water, dried and concentrated to give the desired compound,

reactant | 2-(2-hydroxyphenyl)-4-thiazolecarboxylic acid | 900 mg | OC1=C(C=CC=C1)C=1SC=C(N1)C(=O)O | C10H7NO3S
reactant | acetic anhydride | 0.461 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-acetoxyphenyl)-4-thiazolecarboxylic acid | C(C)(=O)OC1=C(C=CC=C1)C=1SC=C(N1)C(=O)O | C12H9NO4S
